* C:\Users\jcasa\Documents\projects\Disruptocooler\ltspice\generator.asc
V1 N001 0 10
V2 N007 0 PULSE(0 5 20n 10n 10n .25u .5u)
M§Q1 N004 N005 N003 N003 SPA11N60C3
M§Q2 N003 N008 0 0 SPA11N60C3
C1 N003 N002 .1µ
D1 N001 N002 1N5819
V3 N004 0 2000
XU1 N006 N007 N001 N008 MP_01 N002 N005 N003 0 LTC4446
V4 N006 0 PULSE(5 0 20n 10n 10n .25u .5u)
R1 N003 0 25
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 30u startup
.lib LTC4446.sub
.backanno
.end
