* C:\Users\jcasa\Documents\projects\Disruptocooler\ltspice\generator2.asc
V1 IN 0 30
V2 N005 0 PULSE(0 3.3 0 10n 10n 500u 1000u)
XU1 N001 IN MP_01 N006 N006 N005 0 N007 N007 MP_02 OUT N004 N004 N003 N003 N002 LT1158
D1 N001 N002 BAT54
M§Q1 IN N003 N004 N004 SPA11N60C3
C1 N004 N002 .1µ
M§Q2 OUT N007 0 0 SPA11N60C3
R1 N004 OUT 10m
C3 N006 0 .1µ
C2 OUT 0 47pf
R2 OUT 0 10
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 35m startup
.lib LT1158.sub
.backanno
.end
